US06403601B1
N-(4-[4-(Tetrahydro-2-oxo-1(2H)-pyrimidinyl)-1-piperidinyl]-2-(4-chlorophenyl)-butyl)-N-methyl-5,6,7,8-tetrahydro-1-naphthamide
Using standard reductive amination conditions N-[2-(4-chlorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide was reacted with with 4-(tetrahydro-2-oxo-1(2H)-pyrimidinyl)piperidine and converted to the citrate salt. MS: m/z 537 (M+H). Analysis for C3H41CIN4O2.C6H8O7. H2O: calculated: C, 59.36; H, 6.87; N, 7.46; found: C, 59.42; H, 6.71; N, 7.12.

reactant | N-[2-(4-chlorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | ClC1=CC=C(C=C1)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CC=O | C22H24ClNO2
reactant | 4-(tetrahydro-2-oxo-1(2H)-pyrimidinyl)piperidine | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | N-(4-[4-(Tetrahydro-2-oxo-1(2H)-pyrimidinyl)-1-piperidinyl]-2-(4-chlorophenyl)-butyl)-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | O=C1N(CCCN1)C1CCN(CC1)CCC(CN(C(=O)C1=CC=CC=2CCCCC12)C)C1=CC=C(C=C1)Cl | C31H41ClN4O2
